Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
___: Left heart cath

 
History of Present Illness:
The majority of the history of obtained through the patient's 
son and chart review as the patient does not speak ___.  
Mr. ___ is a ___ year old gentleman with history of CAD s/p 
3v CABG in ___, HTN, HLD, DM type II who presents with chest 
pain.  
Substernal chest pain, ___, per patient's son similar to the 
pain that lead to his CABG started last night associated with 
palpitations, diaporesis and dyspnea. The severe pain lasted ___ 
hrs. It improved overnight to ___. He was having difficulty 
sleeping last night because of the pain. He didn't tell anyone 
until his son came back home from work today. Today he tried to 
go down some stairs in his 2 story house and became very 
dyspenic and felt palpitations.  
His son took him to ___ where initial vitals were 
97.3, 76, ___. Significant labs include WBC 13.3. 
BUN/Cr ___. Trop I 0.160 (ref range ___, BNP 58. CXR 
there without acute processes. EKG shows LVH but otherwise no 
evidence of ischemia. He was given ASA 325mg, Nitro SL x 2 and 
Nitro paste with resolution of symptoms and correction of 
hypertension. Vital sign prior to transfer to ___ 134/86 64 16 
100%RA.  
In the ED intial vitals were: 96.9 70 150/78 18 99% 0  
Labs: 11.3 WBC with 12.7% eos. BUN/Cr ___.  
Patient was given: nitro SL x2 with and nitro paste at the OSH 
and morphine 5mg IV once in the ED. Trop <0.01.  
Vitals on transfer: 98 72 120/72 16 97% RA  
On the floor patient currently without chest pain.  
 
Past Medical History:
PAST MEDICAL HISTORY:  
1. CARDIAC RISK FACTORS: Diabetes, Dyslipidemia, Hypertension  
2. CARDIAC HISTORY:  
- CABG: 3v CABG in ___. LIMA graft to the LAD and vein grafts 
to a circumflex marginal and the distal right coronary artery.  
- PERCUTANEOUS CORONARY INTERVENTIONS: None  
- PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY:  
CAD - 3 vessel disease s/p CABG  
HTN  
DM type II  
HLD  
___ disease  
Macroscopic hematuria  
Proteinuria  
cataracts s/p removal of in ___ c/b enucleated eye  
urinary incontinence  
 
Social History:
___
Family History:
Father with ?MI at unknown age. Otherwise no known history of 
arrhythmia, cardiomyopathies, or sudden cardiac death; otherwise 
non-contributory.  
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
VS: 97.8 77 176/91 20 100%RA  
GENERAL: NAD  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with JVP of 8 cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominal bruits.  
EXTREMITIES: No c/c/e. 

 
 
Pertinent Results:
Admission Labs
___ 12:15AM BLOOD WBC-11.3* RBC-4.98 Hgb-13.8* Hct-41.3 
MCV-83 MCH-27.8 MCHC-33.5 RDW-14.6 Plt ___
___ 12:15AM BLOOD Neuts-64.1 ___ Monos-3.6 
Eos-12.7* Baso-0.7
___ 12:15AM BLOOD ___ PTT-38.8* ___
___ 12:15AM BLOOD Glucose-146* UreaN-27* Creat-1.4* Na-138 
K-5.1 Cl-105 HCO3-22 AnGap-16
___ 12:15AM BLOOD CK(CPK)-98
___ 12:15AM BLOOD CK-MB-5
___ 12:15AM BLOOD cTropnT-0.01
___ 06:00AM BLOOD cTropnT-<0.01
___ 12:15AM BLOOD Calcium-9.0 Phos-3.1 Mg-2.3

Discharge LAbs: 

Pertinent Studies:
CT Abd/Pelvis ___
IMPRESSION: 
1. Small retroperitoneal hematoma with hemorrhage extending into 
a right inguinal hernia sac and alongside the right spermatic 
cord.
2. Small hiatal hernia.
3. Calcifications within the pancreas, likely sequela of chronic 
pancreatitis.

Echo ___:
The left atrium is normal in size. The estimated right atrial 
pressure is ___ mmHg. There is mild symmetric left ventricular 
hypertrophy with normal cavity size and regional/global systolic 
function (LVEF>55%). Right ventricular chamber size and free 
wall motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic stenosis or aortic regurgitation. The mitral valve 
leaflets are mildly thickened. Trivial mitral regurgitation is 
seen. There is borderline pulmonary artery systolic 
hypertension. There is no pericardial effusion. 

IMPRESSION: Normal biventricular size and global systolic 
function. Mild to moderate tricuspid regurgitation.

Compared with the prior study (images reviewed) of ___, 
the basal inferior wall has normal function on the current 
study. 

L Heart Cath: 
Report pending, please see finalized report when available
 
Brief Hospital Course:
___ w/ hx of CAD s/p CABG in ___ transferred from OSH for chest 
pain and shortness of breath. 

Active Issues:
#Chest pain: Negative trops but found to have V5-V6 depression 
on subsequent EKG, concerning for new ischemia. He was diuresed 
given his shortness of breath with improvement and taken to cath 
lab where angiogram showed occluded SVG to OM, appearing chronic 
in nature. Medically optimized and continued on nitro gtt post 
procedure for blood pressure control as symptoms had resolved 
prior to cath. Echo showed Normal biventricular size and global 
systolic function. Mild to moderate tricuspid regurgitation.

#Hematoma: Patient complained of groin pain at cath site, though 
no tenderness to palpation or signs of hematoma. He was found to 
have a small RP hematoma which was not significant in size and 
therefore was managed expectantly. 

Chronic Issues:
# CAD. s/p 3V CABG in ___. LIMA graft to the LAD and vein 
grafts to a circumflex marginal and the distal right coronary 
artery. Continued on ASA, metoprolol, and  Atorvastatin.  

# CKD. Patient's Cr 1.4 appears to be baseline. Cr 1.3 in ___ 
and per PCP note, recent admission to ___ Cr was 1.4  

# HTN: continued amlodipine at home dose 2.5 BID

# DM type II: continued on home lantus 40mg QHS, held 70/30 
whiel inpatient and given ISS with adequate control of blood 
glucose.  

# HLD: Atorvasatin as above was continued. 

# Esosinophillia. Patient has had chronic esosinophilla. Given 
country of origin, sent Strongyloides IgG, pending at time of 
discharge.  

# ___ disease: continued on home dose Carbidopa-Levodopa. 
 

Transitional Issues
#Consider transitioning to metoprolol succinate as an 
outpatient, and uptitration as needed. Could consider carvedilol 
for better HTN and rate control
#Imdur uptitrated to assist with angina, cont as needed as an 
outpatient
___ not used given hx of hyperkalemia
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
2. Metoprolol Tartrate 50 mg PO BID 
3. Aspirin 81 mg PO DAILY 
4. Docusate Sodium 200 mg PO DAILY 
5. Senna 17.2 mg PO BID:PRN constipation 
6. Atorvastatin 40 mg PO QPM 
7. Amlodipine 2.5 mg PO BID 
8. Carbidopa-Levodopa (___) 2 TAB PO TID 
9. 70/30 25 Units Breakfast
70/30 25 Units Dinner
Humalog 40 Units Bedtime

 
Discharge Medications:
1. Amlodipine 2.5 mg PO BID 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 40 mg PO QPM 
4. Carbidopa-Levodopa (___) 2 TAB PO TID 
5. Docusate Sodium 200 mg PO DAILY 
6. 70/30 25 Units Breakfast
70/30 25 Units Dinner
Humalog 40 Units Bedtime
7. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
RX *isosorbide mononitrate 60 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
8. Metoprolol Tartrate 50 mg PO BID 
9. Senna 17.2 mg PO BID:PRN constipation 
10. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
RX *nitroglycerin 0.4 mg 1 tablet(s) sublingually q5min:prn Disp 
#*100 Tablet Refills:*0
11. Cane
LENGTH OF NEED: 13 MONTHS
EQUIPMENT: STANDARD CANE

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
Chest pain
Coronary ARtery Disease
Secondary Diagnoses:
Chronic Kidney Disease
DIabetes Mellitus, Type 2
Hypertension
Hyperlipidemia
___ Disease
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted for chest pain in the presence of complex 
coronary disease.  You had changes in your EKG which was 
concerning for new blockage and were taken for a cardiac 
catherization.  You were found to have a chronically occluded 
vessel from your previous coronary bypass surgery.  An echo was 
ordered, but was not obtained to monitor your heart function and 
should be ordered by your primary cardiologist if desired.  You 
were having groin pain which kept you in the hospital for one 
additional night and was controlled.

We have increased your dose of imdur. You should continue your 
remaining medications.

Please follow up with your PCP/cardiologist next week. Please 
call your PCP on the next business day to make an appointment.  
He is aware of your hospitalization.

Please be well.

Your ___ Team
 
Followup Instructions:
___